US07482350B2
Step 3. Preparation of (1S)-(2,4-Dichloro-6-methyl-pyrimidin-5-ylmethyl)methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine
To a flask containing 2,4-dichloro-5-chloromethyl-6-methyl-pyrimidine (107 mg, 0.51 mmol) in absolute EtOH (10 mL) is added K2CO3 (70 mg, 1.0 eq., 0.51 mmol) and the reaction is cooled to 0° C. with an ice bath. (1S)-Methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)amine (82 mg, 1.0 equiv, 0.51mmol) in 1.0 mL of EtOH is added via syringe in one portion and allowed to warm to ambient temperature over 3 h. Water (50 mL) and EtOAc (50 mL) is added and the EtOAc layer is washed with water (100 mL) and brine (50 mL) and dried over Na2SO4. Concentration and vacuum drying affords the title compound as a yellow gum. [mass expected (336.26); mass found (336.30)]

reactant | 2,4-dichloro-5-chloromethyl-6-methyl-pyrimidine | 0.51 mmol, 107 mg | ClC1=NC(=C(C(=N1)Cl)CCl)C | C6H5Cl3N2
reactant | K2CO3 | 0.51 mmol, 70 mg, 1.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | (1S)-Methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)amine | 0.51mmol, 82 mg, 1.0 equiv | CN[C@H]1CCCC2=CC=CC=C12 | C11H15N
reactant | Water | 50 mL | O | H2O
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | EtOH | 1.0 mL | CCO | C2H6O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (1S)-(2,4-Dichloro-6-methyl-pyrimidin-5-ylmethyl)methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine | ClC1=NC(=C(C(=N1)Cl)CN([C@H]1CCCC2=CC=CC=C12)C)C | C17H19Cl2N3
